US05643855
Step A: 4-Chloro-2-fluoro-5-[(2-propynyl)oxy]aniline
Using the procedure of Example 1, Step A and employing 50.0 g (252.45 mmol) of 3-amino-6-chloro-4-fluorophenol hydrochloride, 80% propargyl bromide (60.07 g, 504.9 mmol), and potassium carbonate (69.8 g, 504.9 mmol) in acetonitrile (200 mL), the title compound was obtained as a yellow solid (16.2 g), m.p. 62°-64° C. IR (nujol, era-1), NH2 (3298.0), triple bond (2117.6). 1H NMR was consistent with the structure.

reactant | 3-amino-6-chloro-4-fluorophenol hydrochloride | 252.45 mmol, 50.0 g | Cl.NC=1C=C(C(=CC1F)Cl)O
reactant | propargyl bromide | 504.9 mmol, 60.07 g | C(C#C)Br | C3H3Br
reactant | potassium carbonate | 504.9 mmol, 69.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | 4-Chloro-2-fluoro-5-[(2-propynyl)oxy]aniline | ClC1=CC(=C(N)C=C1OCC#C)F | C9H7ClFNO
